US04518713
A suspension of 12 g of 5% palladium on carbon, 135 g (0.369 mol) of 2-[3-(N-benzyl-N-methylamino)propyl]-2-(4-fluorophenyl)-1,3-dioxolane hydrochloride, 0.1 ml of a saturated solution of hydrogen chloride in methanol and 1 liter of methanol was shaken at 40° for 5 hours under 50 psi hydrogen. The suspension was allowed to cool to room temperature, filtered and the solvent evaporated. Trituration with anhydrous ether, followed by filtration provided 94.6 g (0.343 mol, 93%) of 2-(3-[methylamino]propyl)-2-(4-fluorophenyl)-1,3-dioxolane hydrochloride. Crystallization from isopropyl alcohol provided analytically pure material.

reactant | 2-[3-(N-benzyl-N-methylamino)propyl]-2-(4-fluorophenyl)-1,3-dioxolane hydrochloride | 0.369 mol, 135 g | Cl.C(C1=CC=CC=C1)N(C)CCCC1(OCCO1)C1=CC=C(C=C1)F
reactant | hydrogen chloride | Cl | ClH
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 12 g | [Pd] | Pd
solvent | methanol | CO | CH4O
solvent | methanol | 1 liter | CO | CH4O
product | 2-(3-[methylamino]propyl)-2-(4-fluorophenyl)-1,3-dioxolane hydrochloride | 0.343 mol, 94.6 g, 93% | Cl.CNCCCC1(OCCO1)C1=CC=C(C=C1)F | InChI=1S/C13H18FNO2.ClH/c1-15-8-2-7-13(16-9-10-17-13)11-3-5-12(14)6-4-11;/h3-6,15H,2,7-10H2,1H3;1H
